US08623859B2
N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-3-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-5-carboxamide
To a stirred solution of 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine (bis TFA salt, 108 mg, 0.26 mmol) in DCM (3 mL) at 0° C. was added trimethyl aluminium (2 M in toluene, 0.13 mL, 0.26 mmol) and the mixture was stirred at 0° C. for 15 min. Ethyl 3-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-5-carboxylate (50 mg, 0.13 mmol) was added dropwise as a solution in DCM (2 mL), followed by TEA (0.045 mL, 0.32 mmol). The reaction was stirred at ambient temperature for 18 h, after which time TEA (0.110 mL, 0.79 mmol) and DCE (4 mL) were added. The reaction was heated to 60° C. for 18 h, then partitioned between saturated aqueous NH4Cl (20 mL) and EtOAc (2×20 mL). The aqueous layer was extracted with DCM (2×10 mL) and these extracts were dried over MgSO4 and solvents were removed in vacuo. A portion of the product was purified using prep method A.

reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine | 0.26 mmol, 108 mg | N1C(=NCC1)C1=CC=C(C=C1)CCN | C11H15N3
reactant | trimethyl aluminium | 0.26 mmol, 2 M, 0.13 mL | C[Al](C)C
reactant | Ethyl 3-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-5-carboxylate | 0.13 mmol, 50 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NOC(=N1)C(=O)OCC)C | C16H21N3O6S
reactant | DCE | 4 mL | ClCCCl | C2H4Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-3-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-5-carboxamide | N1C(=NCC1)C1=CC=C(C=C1)CCNC(=O)C1=NC(=NO1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C25H30N6O5S
